US04666510
A solution of 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-butyrylcyclohex-2-en-1-one (3.3 g, 0.01 mole) and sodium hydroxide (38 g) in 50% aqueous ethanol (120 ml) was stirred and heated under reflux. Sodium dithionite (9.6 g, 0.05 mole) was added in portions over a period of 30 minutes to the solution and refluxing was continued for 1 hour. The reaction mixture was filtered while still hot and the filtrate was diluted with water (100 ml), neutralized with hydrochloric acid and finally extracted with dichloromethane (2×100 ml). Evaporation of the dichloromethane layer gave 3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)-2-butyrylcyclohex-2-en-1-one (0.96 g, 32%) as an orange oil. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm); 1.00 (3H, t); 1.5 (2H, m); 2.14 (3H,s); 2.22 (3H, s); 2.30 (3H, s); 2.4-4.0 (7H, m); 6.78 (1H, s); exchangeable protons not observed.

reactant | 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-butyrylcyclohex-2-en-1-one | 0.01 mole, 3.3 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O)C(CCC)=O | C19H23NO5
reactant | sodium hydroxide | 38 g | [OH-].[Na+]
reactant | Sodium dithionite | 0.05 mole, 9.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)-2-butyrylcyclohex-2-en-1-one | 0.96 g, 32% | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)N)C)=O)C(CCC)=O | C19H25NO3
